US07411093B2
To (cis/trans) 2-o-tolyl-cyclohexanol (1 g) in dichloromethane (30 ml) was added Dess-Martin periodinane (Aldrich 27,462-3) at room temperature. The reaction mixture was allowed to stir at room temperature for 16 hours before diethyl ether was added. The volume of solvent was reduced in vacuo to about one quarter of the initial amount. More diethylether (87 ml) was added and the solution was washed with a 10% solution of sodium thiosulfate (87 ml), a solution of saturated sodium bicarbonate (87 ml), brine (100 mL) and water (100 ml). The organic phase was then dried over sodium sulfate and concentrated in vacuo. The residue was then purified by column chromatography to give 0.54 g of 2-o-tolyl-cyclohexanone MS (EI) 188.2 (M+).

reactant | 2-o-tolyl-cyclohexanol | 1 g | C1(=C(C=CC=C1)C1C(CCCC1)O)C | C13H18O
reactant | Dess-Martin periodinane | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | diethylether | 87 ml | C(C)OCC | C4H10O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2-o-tolyl-cyclohexanone | 0.54 g | C1(=C(C=CC=C1)C1C(CCCC1)=O)C | C13H16O
